US04344963
51.2 g (0.2 mol) of 1-phenylpropyl-phosphonic acid diethyl ester, dissolved in 30 ml of anhydrous tetrahydrofuran, were added dropwise to a mixture of 24 g (0.214 mol) of potassium tert.-butylate and 300 ml of anhydrous tetrahydrofuran at 20°-25° C., while stirring. After the mixture had been subsequently stirred at 20°-25° C. for a further 2 hours, 34 g (0.2 mol) of cis/trans-2,2-dimethyl-3-formyl-cyclopropanecarboxylic acid ethyl ester, dissolved in 50 ml of anhydrous tetrahydrofuran, were added dropwise at 25° C., while stirring. Stirring was then continued at 60° C. for a further 6 hours. 500 ml of water were then added and the reaction mixture was extracted twice with 300 ml of methylene chloride each time. The organic phases were separated off and dried over magnesium sulphate, the solvent was distilled off under a waterpump vacuum and the residue was distilled in vacuo. 28.3 g (52% of theory) of 2,2-dimethyl-3-(2-ethyl-2-phenyl-vinyl)-cyclopropanecarboxylic acid ethyl ester (isomer mixture) were obtained as a yellow oil with a boiling point of 142°-150° C./2 mbar.

reactant | 1-phenylpropyl-phosphonic acid diethyl ester | 0.2 mol, 51.2 g | C(C)OP(OCC)(=O)C(CC)C1=CC=CC=C1 | C13H21O3P
reactant | trans-2,2-dimethyl-3-formyl-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1C([C@H]1C=O)(C)C | C9H14O3
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2,2-dimethyl-3-(2-ethyl-2-phenyl-vinyl)-cyclopropanecarboxylic acid ethyl ester | 28.3 g, 52% | C(C)OC(=O)C1C(C1C=C(C1=CC=CC=C1)CC)(C)C | C18H24O2
